US08008250B2
Building block A3: (S)-2-(tert-Butoxycarbonyl-cyclopropyl-amino)-propionic acid
To a solution of 1.5 ml (21.5 mmol, 3.85 eq) of cyclopropylamine in 1 ml of water are added 0.5 ml (5.57 mmol, 1 eq) of (+)-2-bromo-propionic acid. 2 ml of saturated sodium bicarbonate are added after 2 h, and the reaction mixture is stirred for 48 h and then concentrated. The residue is dissolved in 5 ml of 1 N sodium hydroxide and 5 ml of THF. 1.00 g (4.58 mmol, 0.82 eq) of (BOC)2O is added, and the reaction mixture is stirred for 48 h and then acidified with 1 N HCl, until the pH is acidic. The organic layer is separated, washed with 1 N HCl and brine, dried over sodium sulfate, filtered and concentrated. The residue is purified by column chromatography on silica gel (CH2Cl2/MeOH/TFA/H2O 90/10/0.5/1) to give the product.

reactant | cyclopropylamine | 21.5 mmol, 1.5 ml, 3.85 eq | C1(CC1)N | C3H7N
reactant | (+)-2-bromo-propionic acid | 5.57 mmol, 0.5 ml, 1 eq | BrC(C(=O)O)C | C3H5BrO2
reactant | sodium bicarbonate | 2 ml | C([O-])(O)=O.[Na+]
reactant | (BOC)2O | 4.58 mmol, 1.00 g, 0.82 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | water | 1 ml | O | H2O
product | (S)-2-(tert-Butoxycarbonyl-cyclopropyl-amino)-propionic acid | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)C1CC1 | C11H19NO4
